US05214191
Oxalyl chloride (12 mL of a 2.0M solution in CH2Cl2) was added under nitrogen to a solution of 2-(4'-methoxyphenyl)butyric acid (4.66 g, 24 mmol) in 25 mL of CH2Cl2 and stirred at room temperature overnight. The volatiles were removed under vacuum and the residue was distilled to afford 4.46 g (87%) of pure 2-(4'-methoxyphenyl)butyryl chloride. 1H NMR (CDCl3) δ0.919 (t, 3H, J=7.4 Hz), 1.78-1.92 (m, 1H), 2.13-2.27 (m, 1H), 3.81 (s, 3H), 3.83 (t, 1H, J=7.6 Hz), 6.91 (d, 2H, J=8.8 Hz), 7.21 (d, 2H, J=8.7 Hz); 13C NMR (CDCl3) δ11.43, 26.26, 55.14, 64.21, 114.50, 127.86, 129.65, 159.75, 175.48.

reactant | Oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(4'-methoxyphenyl)butyric acid | 24 mmol, 4.66 g | COC1=CC=C(C=C1)C(C(=O)O)CC | C11H14O3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-(4'-methoxyphenyl)butyryl chloride | 4.46 g, 87% | COC1=CC=C(C=C1)C(C(=O)Cl)CC | C11H13ClO2
